US07875627B2
2-Methyl-3-nitro-thieno[2,3-c]pyridine
2-Methyl-thieno[2,3-c]pyridine (5.51 g, 36.9 mmol) was dissolved in concentrated H2SO4 (20 mL) at 0° C. Concentrated HNO3 (11.6 mL) was added dropwise over 15 min, followed by warming to RT. Stirred for 18 h at RT. The solution was poured over ice and adjusted pH to 7 with 50% NaOH/H2O and sat NaHCO3 solution. The solution was extracted with portions of CH2Cl2 (3×100 mL), dried (MgSO4) and condensed to yield the title compound as a bright yellow solid (3.27 g, 46%).

reactant | 2-Methyl-thieno[2,3-c]pyridine | 36.9 mmol, 5.51 g | CC1=CC=2C(=CN=CC2)S1 | C8H7NS
reactant | HNO3 | 11.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH H2O | [OH-].[Na+].O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 2-Methyl-3-nitro-thieno[2,3-c]pyridine | 3.27 g, 46% | CC1=C(C=2C(=CN=CC2)S1)[N+](=O)[O-] | C8H6N2O2S
